US07572820B2
B. 4-Chloro-2-(difluoromethyl)-1-{[5-(2-pyridinyl)-1,2,4-oxadiazol-3-yl]methyl}-1H-indole-5-carbonitrile
To a solution of (1Z)-2-[4-chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]-N-hydroxyethanimidamide (0.011 g, 0.035 mmol) in anhydrous THF (1.5 mL), under N2, was added picolinoyl chloride hydrochloride (0.0066 g, 0.037 mmol) and Et3N (0.0078 g, 0.077 mmol). The mixture was stirred at rt for 30 min. The reaction was monitored by TLC and additional acid chloride (0.003 g, 0.018 mmol) and Et3N (0.0035 g, 0.035 mmol) were added and stirring continued at rt for 1 h. The mixture was then heated in a microwave at 120° C. for 20 min, and subsequently at 150° C. for 2 h. Upon cooling, the mixture was partitioned between EtOAc and 0.1N HCl. The organic phase was washed with 0.1N HCl, sat'd NaHCO3 solution and sat'd brine, dried (Na2SO4), and concentrated in vacuo. The residue was purified by flash chromatography (5-50% EtOAc-hexanes gradient), followed by a second purification by radial chromatography (5-70% EtOAc-hexanes gradient). The product was crystallized from CH2Cl2-hexanes to afford the title compound as a white solid (0.005 g, 38% yield): MS (ES) m/z 386 (M+1).

reactant | (1Z)-2-[4-chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]-N-hydroxyethanimidamide | 0.035 mmol, 0.011 g | ClC1=C2C=C(N(C2=CC=C1C#N)C/C(/NO)=N/[H])C(F)F | C12H9ClF2N4O
reactant | picolinoyl chloride hydrochloride | 0.037 mmol, 0.0066 g | Cl.N1=C(C=CC=C1)C(=O)Cl
reactant | Et3N | 0.077 mmol, 0.0078 g | CCN(CC)CC | C6H15N
reactant | Et3N | 0.035 mmol, 0.0035 g | CCN(CC)CC | C6H15N
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 4-Chloro-2-(difluoromethyl)-1-{[5-(2-pyridinyl)-1,2,4-oxadiazol-3-yl]methyl}-1H-indole-5-carbonitrile | 0.005 g, 38% yield | ClC1=C2C=C(N(C2=CC=C1C#N)CC1=NOC(=N1)C1=NC=CC=C1)C(F)F | C18H10ClF2N5O
